US04010202
In a manner similar to that of Reference Example 4, 5.16 parts of 2-cyclobutylamino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride is hydrolyzed in a mixture of 75 volume parts 48 % hydrobromic acid and 15 volume parts acetic anhydride. The procedure yields 4 parts of 2-cyclobutylamino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide. Melting point: 229°-240° C (decomposition).

reactant | 2-cyclobutylamino-5,6-dimethoxy-3,4-dihydro-1(2H)-naphthalenone hydrochloride | Cl.C1(CCC1)NC1C(C2=CC=C(C(=C2CC1)OC)OC)=O
reactant | hydrobromic acid | Br | BrH
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | 2-cyclobutylamino-5,6-dihydroxy-3,4-dihydro-1(2H)-naphthalenone hydrobromide | Br.C1(CCC1)NC1C(C2=CC=C(C(=C2CC1)O)O)=O | InChI=1S/C14H17NO3.BrH/c16-12-7-5-9-10(14(12)18)4-6-11(13(9)17)15-8-2-1-3-8;/h5,7-8,11,15-16,18H,1-4,6H2;1H
